US04771052
3-Chloro-8-[3-(6-fluorobenzisoxazol-3-yl)propyl]-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline
A mixture prepared from 5.15 g of 3-chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline, 7.0 g of 3-(3-chloropropyl)-6-fluorobenzisoxazole, 4.0 g of potassium carbonate (powdered) and 30 ml of N,N-dimethylformamide was stirred at 100° C. for 2 hours. The mixture was diluted with 150 ml of water and the oily precipitate was purified by high performance liquid chromatography (HPLC) using dichloromethane/methanol mixtures of 95:5 and 10:1 ratios. The clean fractions were combined and concentrated. The residue was stirred in isopropanol and filtered. The yield was 1.2 g, mp=221°-222° C.

reactant | 3-chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | 5.15 g | ClC1=CC=C2C3=C(C=NC2=C1)NC1=C3CNCC1 | C14H12ClN3
reactant | 3-(3-chloropropyl)-6-fluorobenzisoxazole | 7.0 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 3-Chloro-8-[3-(6-fluorobenzisoxazol-3-yl)propyl]-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | ClC1=CC=C2C3=C(C=NC2=C1)NC1=C3CNCC1CCCC1=NOC3=C1C=CC(=C3)F | C24H20ClFN4O
